US04985419
Mercuric acetate (2.91 g) dissolved in glacial acetic acid (60 cc) is added in the course of 20 minutes to a solution of 10-{1-[(2R)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-N-(3-methylbutyl)-2-phenothiazinecarbothioamide, L series (4.29 g) in acetic acid (60 cc), and the mixture is stirred for 45 minutes at a temperature in the region of 20° C. The black suspension obtained is filtered on sintered glass plugged with celite and the yellow filtrate is concentrated under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is taken up with ethyl acetate (250 cc) and distilled water (50 cc). The organic phase is washed successively with normal sodium hydroxide (2×100 cc) and distilled water (3×100 cc) and with saturated aqueous sodium chloride (100 cc) and dried over magnesium sulphate. After filtration, the yellow filtrate is concentrated under reduced pressure (30 mm Hg; 4 kPa) at 40° C. and a crude yellow oil (4.6 g) is thereby obtained. This residue is purified by chromatography on a column (height: 25 cm; diameter: 3.0 cm) of silica gel (0.04-0.06 mm), eluting with pure ethyl acetate (3.6 liters) with a slight excess pressure of nitrogen (40 kPa) and collecting 150-cc fractions. Fractions 12 to 24 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give 10-{1-[(2R)-2-h-ydroxymethyl-1-pyrrolidinyl]-2-propyl}-N-(3-methylbutyl)-2-phenothiazinecarboxamide, L series (0.89 g) in the form of an off-white solid, m.p. 140° C.

reactant | 10-{1-[(2R)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-N-(3-methylbutyl)-2-phenothiazinecarbothioamide | OC[C@@H]1N(CCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC(C)C)=S | C26H35N3OS2
reactant | acetic acid | 60 cc | C(C)(=O)O | C2H4O2
reactant | acetic acid | 60 cc | C(C)(=O)O | C2H4O2
product | 10-{1-[(2R)-2-h-ydroxymethyl-1-pyrrolidinyl]-2-propyl}-N-(3-methylbutyl)-2-phenothiazinecarboxamide | OC[C@@H]1N(CCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)NCCC(C)C | C26H35N3O2S
